US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide
A mixture of 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (40 mg, 0.108 mmol), bis(pinacolato)diboron (82 mg, 0.323 mmol), and KOAc (63.4 mg, 0.646 mmol) was taken up in 1,4-dioxane (1.8 mL) in a 50 mL round-bottomed flask. The mixture was degassed with argon for 10 min, and PdCl2(dppf) (7.88 mg, 10.77 μmol) was added. The reaction was heated at 100° C. (bath temp) for 16 h. The reaction mixture was concentrated under a stream of nitrogen at 50° C. and taken up in water (5 mL) and EtOAc (10 mL). The mixture was filtered through Celite 521, and the Celite pad was rinsed with EtOAc (5 mL). The layers of the filtrate were separated, and the aqueous layer was extracted with EtOAc (1×5 mL). The combined organic layers were dried (Na2SO4) and filtered. Isolute was added, and the mixture was concentrated under reduced pressure. The Isolute-adsorbed crude product was then purified on a silica cartridge (12 g) with a Combiflash Companion, eluting at 20 mL/min with a gradient running from 30% EtOAc/hexanes to 100% EtOAc over 35 min. The desired fractions were concentrated under reduced pressure, giving 21 mg (45%) of the title compound.

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.108 mmol, 40 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C14H15BrN2O3S
reactant | bis(pinacolato)diboron | 0.323 mmol, 82 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.646 mmol, 63.4 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 10.77 μmol, 7.88 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide | 21 mg, 45% | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(=O)N)=O | C20H27BN2O5S
